Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Fever, confusion
 
Major Surgical or Invasive Procedure:
Picc placement

 
History of Present Illness:
Pt is a ___ y.o woman with h.o Dm1, PVD, back pain, HTn, HL,
hypothyroidism, DVT, depression who presented to the ED with
fever x 1 day and confusion. Fever noted to be 102.8 and
associated with cloudy urine in the ___. Per report, ___ has
been unchanged since last hospitalization ___ for hepatic
encephalopathy and n/v. Pt reportedly with associated n/v x 4
today, abdominal distention and 4 BMs. She has been given
nitrofurantoin at her ALF for UTI per report. 
Per OMR, pt's citalopram recently dc'd and pt started on
buproprion. Reported chronic LBP, given lidocaine ointment as
methadone dc'd. 

Currently, pt denies any pain, n/v/d/c/dysuria, urinary changes,
CP, sob, headache, dizziness, cough, rash. 
In the ED she was noted to be obtunded, fever to 103. Imaging
with concern for pyelo and she was given IV vanco, meropenem. 

10pt ROS reviewed and otherwise negative but limited given 
mental
status 
 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
- CKD 
- Cirrhosis (autoimmune presumably secondary to statin use)
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___.
Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
Admission Exam
Gen: lying in bed, appears comfortable, sleepy
vitals:97.8
PO 160 / 61 66 16 100 RA 
head:ncat 
ENT:EOMI, anicteric, MMM, no notable oP lesions
neck: supple
respiratory:b/l ae no w/c/r
cardiac:s1s2 rr no m/r/g
gastrointestinal:+bs, soft, +TTP suprapubic area, no guarding or
rebound
extremities: s/p R BKA, no c/c/e
neurologic: AAox3, sleepy, follows commands but drifts off 
during
conversation, moves all extremities, no tremor noted
psych:calm
skin:no apparent lesions

Discharge exam
98.5 148 / 56 65 18 99 Ra 
Gen: Elderly female,  alert, answers all questions 
appropriately,
much improved from admit.  Edentulous
ENT:EOMI, anicteric, MMM, no notable oP lesions
neck: supple
respiratory:b/l ae no w/c/r
cardiac:s1s2 rr no m/r/g
gastrointestinal:+bs, soft,nt/nd
extremities: s/p R BKA, no c/c/e; left foot without swelling,
warmth.  
neurologic: AAox3, no asterixis
___ backwards, oriented to president. 
psych:calm
skin:no apparent lesions
 
Pertinent Results:
Admission Labs
___ 04:20AM BLOOD WBC-9.3 RBC-2.74* Hgb-8.3* Hct-25.4* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-15.2 RDWSD-51.2* Plt ___
___ 04:20AM BLOOD Glucose-181* UreaN-26* Creat-2.4* Na-131* 
K-3.9 Cl-95* HCO3-21* AnGap-19

Blood culture:  coagulase negative staph
Urine Cx Greater than 100,000 Ecoli
URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE
IDENTIFICATION. 
      YEAST.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in
MCG/ML
                     
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging: reviewed in OMR
CT abd/pelvis:
IMPRESSION: 
1. Extensive bilateral perinephric stranding without kidney
stones or hydronephrosis.  Correlate for underlying infection. 
2. Nodular contour of the liver, correlate clinically with
history of liver pathology.  Trace perihepatic and free pelvic
fluid. 
3. Right base consolidation may be sequelae of aspiration versus
atelectasis. 
4. Extensive atherosclerotic calcifications within the aorta,
celiac axis and SMA. 
5. Cholelithiasis without evidence of cholecystitis. 

Discharge Labs

___ 10:17AM BLOOD WBC-7.7# RBC-3.11*# Hgb-9.4*# Hct-28.0*# 
MCV-90 MCH-30.2 MCHC-33.6 RDW-15.6* RDWSD-51.5* Plt ___
___ 10:17AM BLOOD Glucose-123* UreaN-17 Creat-1.4* Na-137 
K-4.0 Cl-103 HCO3-23 AnGap-15
___ 10:17AM BLOOD Calcium-9.5 Phos-3.3 Mg-1.___/P:  Pt is a ___ y.o woman with h.o DM1, PVD s/p R.BKA, back 
pain, HTN, HL, depression, DVT, cirrhosis, recent admission for 
hepatic encephalopathy, with indwelling ___ catheter who was 
admitted with fever and confusion found to have pyelonephritis.

#Acute bilateral pyelonephritis (fever, CT with perinephritic 
stranding, u/a concerning for infection).  Mental status much 
improved with tx of infection, was put on meropenem, but culture 
shows Bactrim so she was switched to bactrim and will complete 
an extended course for complicated UTI.      ___ had been 
changed at an outpatient visit with urology (documented ___ 
and was changed again during her emergency room stay this 
admission.  She will have f/u with urology for changing the 
catheter.  

#encephalopathy, metabolic
#h.o recent hepatic encephalopathy with cirrhosis (felt to be 
statin induced autoimmune in etiology).
MUCH improved within 24 hours of hospitalization, so her 
encephalopathy was felt to be due to her UTI/Pyelonephritis.  

# Hypertension:  ON five  agents - carvedilol, amlodipine, 
clonidine, lisinopril, and hydralazine.   Advise staggering 
medications so as to have sustained hypertension control.

#acute on chronic kidney disease-suspect prerenal, creatinine 
now
at baseline after gentle hydration.  

#anemia-chronic, hemoglobin lower after hydration, presumably in
part due to renal disease, chronic disease.    transfused 1 unit 
prbc

Diabetes type 1 with complication
-continue home regimen, Dm diet, ___ QID

#back pain-continue lower dose Tylenol and lidocaine ointment\. 
DID NOT RESTART methadone as it causes confusion despite patient 
request.  This was confirmed by ___ pharmacist.  

#depression-recently converted to wellbutrin from SSRI.   
___ consider restart wellbutrin in am.  

#hypothyroidism-continue levothyroxine, 

# FOot pain:  No e/o gout, septic arthritis.  Cannot receive 
NSAIDS.  Given tramadol and low dose tylenol.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
5. Ascorbic Acid ___ mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Calcitriol 0.25 mcg PO DAILY 
8. Calcium Carbonate 500 mg PO DAILY 
9. CloNIDine 0.2 mg PO BID 
10. Clopidogrel 75 mg PO DAILY 
11. Cyanocobalamin 1000 mcg PO DAILY 
12. Ferrous GLUCONATE 324 mg PO DAILY 
13. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
14. HydrALAZINE 100 mg PO Q8H 
15. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
16. Levothyroxine Sodium 88 mcg PO DAILY 
17. Lidocaine 5% Ointment 1 Appl TP BID 
18. Lisinopril 30 mg PO DAILY 
19. Metoclopramide 5 mg PO QIDACHS 
20. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
21. Multivitamins 1 TAB PO DAILY 
22. Pantoprazole 40 mg PO Q24H 
23. Polyethylene Glycol 17 g PO DAILY constipation 
24. Rosuvastatin Calcium 10 mg PO QPM 
25. Tiotropium Bromide 1 CAP IH DAILY 
26. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
27. Carvedilol 6.25 mg PO QAM 
28. Carvedilol 12.5 mg PO QPM 
29. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
30. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
31. travoprost 0.004 % ophthalmic QPM 
32. Glargine 6 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
33. BuPROPion XL (Once Daily) 150 mg PO DAILY 
34. Nitrofurantoin (Macrodantin) 100 mg PO DAILY 
35. Lactulose 30 mL PO Q8H:PRN constipation 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID constipation  
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
take for 9 more days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*18 Tablet Refills:*0 
3.  Glargine 6 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
6.  amLODIPine 10 mg PO DAILY  
7.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
8.  Ascorbic Acid ___ mg PO BID  
9.  Aspirin 81 mg PO DAILY  
10.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
11.  Calcitriol 0.25 mcg PO DAILY  
12.  Calcium Carbonate 500 mg PO DAILY  
13.  Carvedilol 6.25 mg PO QAM  
14.  Carvedilol 12.5 mg PO QPM  
15.  CloNIDine 0.2 mg PO BID  
16.  Clopidogrel 75 mg PO DAILY  
17.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
18.  Cyanocobalamin 1000 mcg PO DAILY  
19.  Ferrous GLUCONATE 324 mg PO DAILY  
20.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
21.  HydrALAZINE 100 mg PO Q8H  
22.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
23.  Levothyroxine Sodium 88 mcg PO DAILY  
24.  Lidocaine 5% Ointment 1 Appl TP BID  
25.  Lisinopril 30 mg PO DAILY  
26.  Metoclopramide 5 mg PO QIDACHS  
27.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
28.  Multivitamins 1 TAB PO DAILY  
29.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
30.  Pantoprazole 40 mg PO Q24H  
31.  Polyethylene Glycol 17 g PO DAILY constipation  
32.  Rosuvastatin Calcium 10 mg PO QPM  
33.  Tiotropium Bromide 1 CAP IH DAILY  
34.  travoprost 0.004 % ophthalmic QPM  
35.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY  
36. HELD- Nitrofurantoin (Macrodantin) 100 mg PO DAILY  This 
medication was held. Do not restart Nitrofurantoin (Macrodantin) 
until you have finished your bactrim

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  Encephalopathy due to UTI
2.  Anemia
3.  Hypertension
4.  Cirrhosis
5.  Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted for confusion due to a urine infection that 
reached your kidneys.  You improved dramatically with 
antibiotics.  You will complete 9 additional days of 
antibiotics.  
Please followup with Dr ___ Dr ___ your 
discharge.  You also have a followup appointment to get your 
___ catheter changed.  

 
Followup Instructions:
___